US08076336B2
7,8-Dimethyl-6-pyrrolidin-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
6-Chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine (W2.006a, 500 mg) were initially charged in pyrrolidine (5 ml) at RT while stirring. Then the mixture was heated to 65° C. for 4 h. Thereafter, the pyrrolidine was drawn off, and the residue was taken up with water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. 438 mg of the title compound were obtained.

reactant | 6-Chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 500 mg | ClC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C7H8ClN5
reactant | water | O | H2O
reactant | pyrrolidine | 5 ml | N1CCCC1 | C4H9N
product | 7,8-Dimethyl-6-pyrrolidin-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 438 mg | CC1=C(C=2N(N=C1N1CCCC1)C(=NN2)N)C | C11H16N6
